* C:\Users\Bruger\Desktop\DUTTEN\fagprojekt\Power converter\Flyback.asc
V1 N001 0 SINE(0 230 50)
D1 N002 0 GSIB2580
D2 N001 N003 GSIB2580
D3 N002 N001 GSIB2580
D4 0 N003 GSIB2580
R1 N003 N002 100
.model D D
.lib C:\Users\Bruger\Documents\LTspiceXVII\lib\cmp\standard.dio
* Full Bridge Rectifier
.tran 0 0.1s 0
.model GSIB2580 D(Ron = 1 Roff = 1Meg Vfwd = 1 Vrev = 800 Ilimit = 25 Revilimit = 10u)
.backanno
.end
